US07777047B2
N-(5-(3-methoxypropoxy)-2-{5-[(1-oxidothiomorpholino)methyl]-4,5-dihydro-1,3-thiazol-2-yl}-1H-indol-7-yl)-N-methylpyridine-2-sulfonamide
To a mixture of N-{5-(3-methoxypropoxy)-2-[5-(thiomorpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylpyridine-2-sulfonamide (110 mg), methanol (3 mL), water (3 mL) and tetrahydrofuran (3 mL) was added OXONE (registered trade mark, 60 mg) at room temperature, and the mixture was stirred at room temperature for 1 hr. Aqueous sodium sulfite solution was added to the reaction mixture, and the mixture was stirred for 30 min, and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography, and eluted with ethyl acetate-methanol (100:0-90:10, volume ratio). The obtained crystals were washed with diisopropyl ether to give the title compound (35 mg, yield 32%) as colorless crystals. The crystals were recrystallized from acetone-hexane to give colorless prism crystals. melting point 176-177° C.

reactant | N-{5-(3-methoxypropoxy)-2-[5-(thiomorpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylpyridine-2-sulfonamide | 110 mg | COCCCOC=1C=C2C=C(NC2=C(C1)N(S(=O)(=O)C1=NC=CC=C1)C)C=1SC(CN1)CN1CCSCC1 | C26H33N5O4S3
reactant | methanol | 3 mL | CO | CH4O
reactant | OXONE | 60 mg | OOS(=O)[O-].[K+]
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | water | 3 mL | O | H2O
product | N-(5-(3-methoxypropoxy)-2-{5-[(1-oxidothiomorpholino)methyl]-4,5-dihydro-1,3-thiazol-2-yl}-1H-indol-7-yl)-N-methylpyridine-2-sulfonamide | 35 mg, yield 32% | COCCCOC=1C=C2C=C(NC2=C(C1)N(S(=O)(=O)C1=NC=CC=C1)C)C=1SC(CN1)CN1CCS(CC1)=O | C26H33N5O5S3
